US09023858B2
B) 2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione
2-(Methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione (300 mg) was suspended in ethanol (9 ml), sodium ethoxide (20% ethanol solution, 1.33 g) was added thereto at room temperature, and the mixture was heated under reflux for 3 hr, and allowed to be cooled. The reaction mixture was poured into 0.5M hydrochloric acid (9 ml) under ice-cooling, and the brown precipitate was collected by filtration, washed with water, and dissolved in tetrahydrofuran (100 ml). The solution was diluted with ethyl acetate (150 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained brown residue was purified by silica gel column chromatography (ethyl acetate/hexane) and then silica gel column chromatography (NH, methanol/ethyl acetate) to give the title compound (251 mg) as a white solid.

reactant | 2-(Methylsulfanyl)-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 300 mg | CSC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C16H12F3N3O3S
reactant | sodium ethoxide | 1.33 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 0.5M, 9 ml | Cl | ClH
solvent | ethanol | 9 ml | C(C)O | C2H6O
product | 2-ethoxy-3-[4-(2,2,2-trifluoroethoxy)phenyl]pyrido[2,3-d]pyrimidine-4,7(3H,8H)-dione | 251 mg | C(C)OC=1N(C(C2=C(N1)NC(C=C2)=O)=O)C2=CC=C(C=C2)OCC(F)(F)F | C17H14F3N3O4
